US07985751B2
To a suspension of 1-[2-(3,4-dimethoxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine dihydrochloride (1.06 g, 2.40 mmol) in THF (5 mL) is added a solution of sodium hydroxide (1N, 6 mL). To the resulting solution is added ethyl acetate and brine. The organic layer is separated, filtered through silica gel, dried over anhydrous sodium sulfate, concentrated, and dried to give 0.829 g of 1-[2-(3,4-dimethoxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine as a light brown solid.

reactant | 1-[2-(3,4-dimethoxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine dihydrochloride | 2.40 mmol, 1.06 g | Cl.Cl.COC=1C=C(C=CC1OC)CCN1CCN(CC1)CCCC1=CC=CC=C1
reactant | sodium hydroxide | 1N, 6 mL | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 1-[2-(3,4-dimethoxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine | 0.829 g | COC=1C=C(C=CC1OC)CCN1CCN(CC1)CCCC1=CC=CC=C1 | C23H32N2O2
